US06921763B2
Di-tert-butyl dicarbonate (2.093 g, 0.00959 mol) was added to a solution of 3-iodo-1-(3-piperidyl)-1H-pyrazolo[3,4-d]pyrimidin-4-ylamine (3.00 g, 0.00872 mol) and sodium carbonate (3.23 g, 0.0305 mol) in 1,4-dioxane (50 mL) and water (50 mL). The mixture was stirred at room temperature for 2 h and the resulting white precipitate was collected by filtration. The solid was washed with water (10 mL) and dried in air to afford tert-butyl 3-(4-amino-3-iodo-1H-pyrazolo[3,4-d]pyrimidin-1-yl)-1-piperidinecarboxylate as a white solid (3.40 g, 88%); RP-HPLC Rt 12.532 min, 98% purity (5% to 85% acetonitrile/0.1M aqueous ammonium acetate, buffered to pH 4.5, over 20 min at 1 mL/min; λ=254 nm; Deltapak C18, 300 Å, 5 μm, 150×3.9 mm column);

reactant | Di-tert-butyl dicarbonate | 0.00959 mol, 2.093 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 3-iodo-1-(3-piperidyl)-1H-pyrazolo[3,4-d]pyrimidin-4-ylamine | 0.00872 mol, 3.00 g | IC1=NN(C2=NC=NC(=C21)N)C2CNCCC2 | C10H13IN6
reactant | sodium carbonate | 0.0305 mol, 3.23 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,4-dioxane | 50 mL | O1CCOCC1 | C4H8O2
solvent | water | 50 mL | O | H2O
product | tert-butyl 3-(4-amino-3-iodo-1H-pyrazolo[3,4-d]pyrimidin-1-yl)-1-piperidinecarboxylate | 3.40 g, 88% | NC1=C2C(=NC=N1)N(N=C2I)C2CN(CCC2)C(=O)OC(C)(C)C | C15H21IN6O2
